US07375115B2
2-Acetoxymethyl-2-amino-1,3-diacetoxypropane
To 2-amino-2-hydroxymethyl-1,3-propanediol (10.00 g) were added acetic acid (40.0 mL), 1N hydrochloric acid/diethyl ether solution (90.0 mL) and acetic anhydride (30.0 mL) successively. The solution was heated under reflux at 110° C. for 6 hours. The solvent was distilled off under reduced pressure, and distilled to dryness with xylene azeotropically. The resulting residue was diluted with water, washed with ethyl acetate, the aqueous layer was made to pH 8 with sodium hydrogencarbonate, and it was then extracted with 25% ethanol/chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel, 3-4% ethanol/dichloromethane) to give the title compound (4.02 g).

reactant | 2-amino-2-hydroxymethyl-1,3-propanediol | 10.00 g | NC(CO)(CO)CO | C4H11NO3
reactant | hydrochloric acid diethyl ether | 1N, 90.0 mL | Cl.C(C)OCC
reactant | acetic anhydride | 30.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 40.0 mL | C(C)(=O)O | C2H4O2
product | 2-Acetoxymethyl-2-amino-1,3-diacetoxypropane | 4.02 g | C(C)(=O)OCC(COC(C)=O)(COC(C)=O)N | C10H17NO6
